US08486952B2
A solution of 2-(3,4-difluorophenyl)cyclopentanone, (prepared in the manner of Intermediate P(1) and P(2)) (1.5 g, 7.65 mmol) and carbonisocyanatidic chloride (1.129 g, 10.70 mmol) was stirred at 58° C. in a high-pressure vessel for 1 h. The temperature was raised to 130° C. and the reaction mixture was stirred for an additional 2 h. After cooling to rt, the reaction mixture solidified. The solid residue was dissolved in ethyl acetate and washed with saturated aqueous solution of sodium bicarbonate. The organic layer was separated and the aqueous layer was extracted twice with ethyl acetate. The combined organic extracts were dried over anhydrous sodium sulfate and filtered. The solvent was removed in vacuum and the oily residue was purified by column chromatography on silica gel to provide 7-(3,4-difluorophenyl)-6,7-dihydrocyclopenta[e][1,3]oxazine-2,4(3H,5H)-dione (1.05 g, 3.96 mmol, 51.8% yield) as a white solid.

reactant | 2-(3,4-difluorophenyl)cyclopentanone | FC=1C=C(C=CC1F)C1C(CCC1)=O | C11H10F2O
reactant | carbonisocyanatidic chloride | 10.70 mmol, 1.129 g | C(=O)(N=C=O)Cl | C2ClNO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(3,4-difluorophenyl)-6,7-dihydrocyclopenta[e][1,3]oxazine-2,4(3H,5H)-dione | 3.96 mmol, 1.05 g, 51.8% yield | FC=1C=C(C=CC1F)C1CCC=2C(NC(OC21)=O)=O | C13H9F2NO3
